US05051524
A solution of 1 g of ethyl 1,1-diethoxymethyl(tetrahydrofuran-2-yl)phosphinate in 10 ml of dichloromethane containing 1% (b.v.) of ethanol is treated with 0.71 g of trimethylsilylchloride. The faintly cloudy solution is stirred overnight at room temperature after which time thin layer chromatography indicates complete reaction. Removal of the solvent in vacuo affords a colourless oil which after distillation yields P-tetrahydrofuran-2-yl-phosphonous acid ethyl ester, b.p. 90°/8 ×10-2 mbar.

reactant | ethyl 1,1-diethoxymethyl(tetrahydrofuran-2-yl)phosphinate | 1 g | C(C)OC(OCC)P(OCC)(=O)C1OCCC1 | C11H23O5P
reactant | ethanol | C(C)O | C2H6O
reactant | trimethylsilylchloride | 0.71 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | P-tetrahydrofuran-2-yl-phosphonous acid ethyl ester | C(C)OP(O)C1OCCC1 | C6H13O3P
